* C:\Users\misil\OneDrive\Documents\professional_development\AMS Learning\PyLTSpice\temp\rc_high_pass_simple_1.asc
* Generated by LTspice 24.1.10 for Windows.
V1 N001 0 SINE(0 5 1k) AC 1
R1 out N001 1k
C1 out 0 100n
.ac dec 20 10 100k
.backanno
.end
